* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\Main_device\mod_upgrade.asc
XU1 N024 N022 +5 -5 N019 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N019 N022 300K
R2 N024 0 10K
R3 N024 N023 100K
XU2 N026 N021 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N026 1µ
R4 N026 Tpre 10K
R5 N036 Tpost 10K
R6 N013 N021 10K
R7 N024 N016 100K
XU3 N025 N020 +5 -5 N023 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N020 D
D2 P001 N025 D
R8 N023 N025 1Meg
R9 0 N025 600K
R10 P001 0 100K
C2 P001 N013 0.02µ
R11 N023 N020 20K
C3 N020 0 600n
R12 0 N022 10K
D3 N019 P002 D
R13 N024 -5 100K
XU4 N035 N030 +5 -5 N033 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N030 D
D5 P003 N035 D
R14 N033 N035 1Meg
R15 0 N035 600K
R16 P003 0 100K
R17 N033 N030 20K
C4 N030 0 600n
C5 P003 N016 0.02µ
XU5 N034 N032 +5 -5 N028 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R18 N028 N032 300K
R19 N034 0 10K
R20 N034 N033 100K
R21 N034 N013 100K
R22 0 N032 10K
D6 N028 P004 D
R23 N034 -5 100K
R24 Inhibitor N018 30K
R25 N018 P002 15K
R26 N027 N018 15K
R27 N013 N026 1Meg
R28 N021 0 1Meg
XU6 N036 N031 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N036 1µ
R29 N016 N031 10K
R30 N016 N036 1Meg
R31 N031 0 1Meg
XU7 0 N018 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R32 N027 N029 10K
XU8 0 N029 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R33 N029 P004 10K
C7 Inhibitor N018 0.5µ
XU9 N014 N008 +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N006 N008 150K
R35 N014 0 10K
R36 N014 N013 100K
R37 0 N008 10K
R38 N014 N007 100K
R39 0 N007 100K
R40 N007 -5 50K
D7 N006 N009 D
R41 N010 N004 120K
XU10 N012 N004 +5 -5 N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R42 N004 Sombrero 100K
R43 N012 Sombrero 100K
Q1 N012 N017 0 0 NPN
R44 Hebbian N005 35K
R45 N005 N010 15K
R46 0 N005 15K
XU11 0 N005 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N005 0.5µ
R47 N017 Inhibitor 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 50m 0 0 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 0 0 20m 120m)
R48 N014 N016 100K
XU12 N009 N015 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D8 N011 Sombrero D
XU13 Hebbian 0 memristor
A1 a3c 0 0 0 0 0 N015 0 VARISTOR
A2 mod 0 N015 N015 N015 N015 N011 N015 VARISTOR Rclamp=1
V6 mod 0 PWL(0 0 6 0 7 0.5 13 0.5 14 1 20 1 21 1.5)
XU14 N003 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R49 N003 +5 100k
R50 0 N003 100k
R51 N001 a2c 100k
R52 N002 N001 100k
D9 N002 a3c D
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 27 0 1000u
.lib memristor.sub
.lib UniversalOpamps2.sub
.backanno
.end
