* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\Main_device\mod_upgrade.asc
XU1 N021 N019 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N016 N019 300K
R2 N021 0 10K
R3 N021 N020 100K
XU2 N023 N018 +5 -5 N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N023 1µ
R4 N023 Tpre 10K
R5 N033 Tpost 10K
R6 N010 N018 10K
R7 N021 N013 100K
XU3 N022 N017 +5 -5 N020 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N017 D
D2 P001 N022 D
R8 N020 N022 1Meg
R9 0 N022 600K
R10 P001 0 100K
C2 P001 N010 0.02µ
R11 N020 N017 20K
C3 N017 0 600n
R12 0 N019 10K
D3 N016 P002 D
R13 N021 -5 100K
XU4 N032 N027 +5 -5 N030 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N027 D
D5 P003 N032 D
R14 N030 N032 1Meg
R15 0 N032 600K
R16 P003 0 100K
R17 N030 N027 20K
C4 N027 0 600n
C5 P003 N013 0.02µ
XU5 N031 N029 +5 -5 N025 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R18 N025 N029 300K
R19 N031 0 10K
R20 N031 N030 100K
R21 N031 N010 100K
R22 0 N029 10K
D6 N025 P004 D
R23 N031 -5 100K
R24 Inhibitor N015 30K
R25 N015 P002 15K
R26 N024 N015 15K
R27 N010 N023 1Meg
R28 N018 0 1Meg
XU6 N033 N028 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N033 1µ
R29 N013 N028 10K
R30 N013 N033 1Meg
R31 N028 0 1Meg
XU7 0 N015 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R32 N024 N026 10K
XU8 0 N026 +5 -5 N024 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R33 N026 P004 10K
C7 Inhibitor N015 0.5µ
XU9 N011 N005 +5 -5 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N003 N005 150K
R35 N011 0 10K
R36 N011 N010 100K
R37 0 N005 10K
R38 N011 N004 100K
R39 0 N004 100K
R40 N004 -5 50K
D7 N003 N006 D
R41 N007 N001 120K
XU10 N009 N001 +5 -5 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R42 N001 Sombrero 100K
R43 N009 Sombrero 100K
Q1 N009 N014 0 0 NPN
R44 Hebbian N002 35K
R45 N002 N007 15K
R46 0 N002 15K
XU11 0 N002 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N002 0.5µ
R47 N014 Inhibitor 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 50m 0 0 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 0 0 20m 120m)
R48 N011 N013 100K
XU12 N006 N012 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D8 N008 Sombrero D
A1 a3c 0 0 0 0 0 N012 0 VARISTOR
A2 mod 0 N012 N012 N012 N012 N008 N012 VARISTOR Rclamp=1
V6 mod 0 PWL(0 0 6 0 7 0.5 13 0.5 14 1 20 1 21 1.5)
XU14 N036 N034 +5 -5 N035 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R49 N036 +5 100k
R50 0 N036 100k
R51 N034 a2c 100k
R52 N035 N034 100k
D9 N035 a3c D
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 27 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
